US06586628B2
1,3-Di(3-Methoxybenzyl)Thiourea
The reaction of 3-methoxybenzyl isothiocyanate with 3-methoxybenzyl amine in ethanol was repeated doubling the reaction volume and reactants and heating for 2 h at 40° C. Crystallization at −10° C., followed by evaporation of the supernatant to 20 ml and a second crystallization gave 98.4% of the theoretical yield for the two crystallizations combined. Calculated elemental analysis of 3-methoxybenzyl thiourea: C, 64.53; H, 6.37; N, 8.85; S, 10.13. Found: C, 64.30; H, 6.46; N, 8.85; S, 10.09.

reactant | 3-methoxybenzyl isothiocyanate | COC=1C=C(CN=C=S)C=CC1 | C9H9NOS
reactant | 3-methoxybenzyl amine | COC=1C=C(CN)C=CC1 | C8H11NO
reactant | 3-methoxybenzyl thiourea | COC=1C=C(CNC(=S)N)C=CC1 | C9H12N2OS
solvent | ethanol | C(C)O | C2H6O
product | 1,3-Di(3-Methoxybenzyl)Thiourea | COC=1C=C(CNC(=S)NCC2=CC(=CC=C2)OC)C=CC1 | C17H20N2O2S
